US05516788
cis-4b,5,9b,10-Tetrahydro-2,8-dimethoxy-1,3-dimethylindeno[1,2-b]indole.
5,10-Dihydro-2,8-dimethoxy-1,3-dimethylindeno[1,2-b]indole (1.04 g, 3.55 mmol) was dissolved in trifluoroacetic acid (5 cm3) and triethylsilane (0.6 cm3) added with vigorous stirring. Stirring was continued for 4 hours, and the reaction worked up incomplete due to the appearance by t.l.c. of impurities. The solution was poured into water, stirred, and brought to pH 7.0 with solid sodium bicarbonate. The organic material was extracted into DCM, which was washed with sodium bicarbonate solution, and filtered through phase separating filter paper. The product and starting material were separated by column chromatography eluting with 20% EtOAc/60°-80° petrol to yield starting indole (0.06 g, 6%) and a colourless solid. Yield: 0.57 g, 58% .M.p. 149-50° C. (from EtOAc/petrol). 1H NMR (CDCl3) δ: 6.99 (1H, s), 6.79 (1H, m), 6.57 (2H, m), 5.18 (1H, d, J=8.5 Hz), 4.18 (1H, dd(br)), 3.74 (3H, s), 3.65 (3H, s), 3.35 (1H, dd, 3J=8.4 Hz), 3.06 (1H, d(d)), 2.25 (3H, s), 2.15 (3H, s).

reactant | 5,10-Dihydro-2,8-dimethoxy-1,3-dimethylindeno[1,2-b]indole | 3.55 mmol, 1.04 g | COC=1C(=C2CC3=C(NC=4C=CC(=CC34)OC)C2=CC1C)C | C19H19NO2
reactant | triethylsilane | 0.6 cm3 | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | indole | 0.06 g | N1C=CC2=CC=CC=C12 | C8H7N
solvent | trifluoroacetic acid | 5 cm3 | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | cis-4b,5,9b,10-Tetrahydro-2,8-dimethoxy-1,3-dimethylindeno[1,2-b]indole | COC=1C(=C2C[C@H]3[C@H](NC=4C=CC(=CC34)OC)C2=CC1C)C | C19H21NO2
